**** MTJ read resistance subcircuit model ***


*********************
*  parameter list   *
*********************
*STT-MTJ geometry:
*r0: radius, tox0: oxide thickness of STT-MTJ
*MTJ state: MTJ state (0: Parallel, 1: Anti-parallel)
*recommended values for 65nm bulk process
*.param r0 = 65n
*.param tox0 = 1.2n

*recommended values for 32nm bulk process
*.param r0 = 32n
*.param tox0 = 1n

*recommended values for 10nm FinFET process
*.param r0 = 14n
*.param tox0 = 0.85n

*********************
*  port list   *
*********************
*nfl: Free Layer node
*npl: Pinned Layer node

*********************
*      netlist      *
*********************
.subckt mtj fl pl state=0

.param vh=0.5
.param phi = 0.4
.param F = 211
.param rreal=r0+dr_inter+dr_intra
.param toxreal=tox0+dt_inter+dt_intra
.param A=3.1416*rreal*rreal
.param rp=(toxreal/(F*sqrt(phi)*A))*exp(1.025*toxreal*sqrt(phi))

rmtj fl pl 'rp/(1-(state/(1+((1+ V(fl,pl)*V(fl,pl)/(vh*vh))/tmr0))))'   


.ends

.subckt mtj_ref fl pl r = 14n 

.param vh=0.5
.param phi = 0.4
.param F = 211
.param rreal=r+dr_inter+dr_intra
.param toxreal=tox0+dt_inter+dt_intra
.param A=3.1416*rreal*rreal
.param rp=(toxreal/(F*sqrt(phi)*A))*exp(1.025*toxreal*sqrt(phi))

rmtj fl pl 'rp/(1-(1/(1+((1+ V(fl,pl)*V(fl,pl)/(vh*vh))/tmr0))))'   

.ends



